US07834043B2
[(6-methyl-3-pyridinyl)oxy]acetic acid
A solution containing ethyl 6-methyl-3-pyridyloxyacetate (0.026 g, 0.13 mmol) in a mixture of THF (0.5 mL) and water (0.5 mL) was treated with lithium hydroxide monohydrate (0.008 g, 0.19 mmol), stirred at 25° C. for 18 hours, aid concentrated to give the crude product, which was used without purification.

reactant | ethyl 6-methyl-3-pyridyloxyacetate | 0.13 mmol, 0.026 g | CC1=CC=C(C=N1)OCC(=O)OCC | C10H13NO3
reactant | lithium hydroxide monohydrate | 0.19 mmol, 0.008 g | O.[OH-].[Li+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | [(6-methyl-3-pyridinyl)oxy]acetic acid | CC1=CC=C(C=N1)OCC(=O)O | C8H9NO3
